### PR TITLE
[Merged by Bors] - feat: the `sinc` function

### PR DESCRIPTION
**Pull request by RemyDegenne**
- Define the `sinc` function, with value `sinc x = sin x / x` for `x ≠ 0` and `1` for `x = 0`
- Prove that `sinc` is continuous
- Add lemmas about measurability and integrability of `sinc`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
Do you have derivatives available in this file? A nice way to prove continuity of `sinc` is to say that it's `dslope sin 0`. BTW, do you plan to prove that `sinc` is analytic?

**Comment by j-loreaux** [comment]
Yury stole all my questions. :laughing:

**Comment by RemyDegenne** [comment]
> Do you have derivatives available in this file? A nice way to prove continuity of `sinc` is to say that it's `dslope sin 0`. BTW, do you plan to prove that `sinc` is analytic?

With the current imports, `deriv` exists but not `dslope`.
I don't plan to prove anything else about `sinc`. My only use for that function right now is #24846, in which I use it merely as notation for the if-then-else, and don't use any other property than the simple bounds I proved here (and integrability). I was not sure whether I should actually introduce a definition of `sinc` just for that, but since it's an otherwise useful function I figured it could not hurt.
I don't even need the continuity, but I thought it would be nice to add it (in this PR I use it to get measurability, but it could be replaced by another one-liner). I won't prove that it's analytic.

I could remove the continuity proof if you think it should be done in a different way.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean [hunk 1]
```diff
@@ -0,0 +1,89 @@
...
+-/
+
+open Filter
+open scoped Topology
+
+namespace Real
+
+variable {x : ℝ}
+
+/-- The function `sin x / x` mofified to take the value 1 at 0, which makes it continuous. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean:31]:
```suggestion
/-- The function `sin x / x` modified to take the value 1 at 0, which makes it continuous. -/
```

File: Mathlib/MeasureTheory/Function/SpecialFunctions/Sinc.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+import Mathlib.MeasureTheory.Function.L1Space.Integrable
+
+/-!
+# Measurability and integrability of the sinc function
+
+## Main statements
+
+* `measurable_sinc`: the sinc function is measurable.
+* `integrable_sinc`: the sinc function is integrable with respect to any finite measure on `ℝ`.
+
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SpecialFunctions/Sinc.lean:17]: Maybe you can add some TODOs for the Taylor series representation, analyticity, etc.

**Review by j-loreaux — APPROVED** [review]
I think it's fine to leave the other properties as TODOs.

bors d+

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
...
+import Mathlib.Analysis.Calculus.DSlope
+
+/-!
+# Sinc function
+
+This file contains the definition of the sinc function and some of its properties.
+
+## Main definitions
+
+* `Real.sinc`: the sinc function, defined as `sinc x = sin x / x` for `x ≠ 0` and `1` for `x = 0`.
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean:16]:
```suggestion
* `Real.sinc`: the (unnormalized) sinc function, defined as `sinc x = sin x / x` for `x ≠ 0` and `1` for `x = 0`.
```

since https://en.wikipedia.org/wiki/Sinc_function suggests that different fields use a different scale factor. Perhaps worth adding the link to the references, even if its obvious.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean [hunk 4]
```diff
@@ -0,0 +1,89 @@
...
+  · rw [abs_of_nonneg hx.le, div_eq_mul_inv, mul_inv_le_iff₀ hx, inv_mul_cancel₀ hx.ne']
+    exact sin_le_one x
+
+lemma sinc_le_inv_abs (hx : x ≠ 0) : sinc x ≤ |x|⁻¹ := by
+  rw [sinc_of_ne_zero hx]
+  exact sin_div_le_inv_abs x
+
+/-- The function `sinc` is continuous. -/
+@[fun_prop]
+lemma continuous_sinc : Continuous sinc := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean:81]: Could you add a todo to show it is also differentiable, and even ContDiff?

Comment (eric-wieser) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean:81]: (or perhaps a `proof_wanted`!)

**Comment by RemyDegenne** [comment]
I am not a fan of adding TODOs. Nearly 100% of the TODOs I added in Mathlib outlived their implementation (mostly because I myself forgot to remove them once I implemented them), which results in misleading todos in the file docstrings.
Also anyone who wants to use this function in an application that needs more than its mere definition will naturally prove differentiability, analycity, etc.
So unless someone insists again on having TODOs in the next few hours, I'll merge without them.

**Comment by eric-wieser** [comment]
Are `proof_wanted`s better than TODOs in that regard?

**Comment by j-loreaux** [comment]
I'm fine if you leave out the TODOs
